US05155123
Preparation of 1-benzyl-2-(nitroimino)pyridine
20 ml (0.114 mole) of N,N-diisopropylethylamine and 12 ml (0.1 mole) of benzyl bromide are added to a suspension containing 14 g (0.1 mole) of 2-(nitroamino)pyridine [prepared according to J. Am. Chem. Soc. 77, 3154 (1955)] in 100 ml of acetonitrile, then the mixture is refluxed for 2.5 hours. The reaction mixture is cooled down then evaporated under reduced pressure, the residue is triturated with water, the suspension obtained is filtered and washed with a great volume of water. The filter cake is thoroughly sucked, then suspended in 50 ml of petroleum ether, filtered and washed again with petroleum ether to give 14.2 g (62%) of the named product, m.p.: 125°-126° C. (recrystallized from ethyl acetate).

reactant | N,N-diisopropylethylamine | 0.114 mole, 20 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzyl bromide | 0.1 mole, 12 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2-(nitroamino)pyridine | 0.1 mole, 14 g | [N+](=O)([O-])NC1=NC=CC=C1 | C5H5N3O2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-benzyl-2-(nitroimino)pyridine | C(C1=CC=CC=C1)N1C(C=CC=C1)=N[N+](=O)[O-] | C12H11N3O2
